US08022205B2
4-(2-Amino-pyrimidin-5-yl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid [5-(4-ethyl-piperazin-1-yl)-2-methyl-phenyl]-amide (D-239)
Using 5-(4-ethyl-piperazin-1-yl)-2-methyl-phenylamine (73 mg) obtained using 1-ethyl-piperazine instead of morpholine in the same manner as Step A and Step B in Example 1-D-237, instead of 2-methyl-5-morpholin-4-yl-phenylamine, from bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine (200 mg), in the same manner as Step C in Example 1-D-237, 4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid [5-(4-ethyl-piperazin-1-yl)-2-methyl-phenyl]-amide was obtained as a crude product. The PMB groups were removed according to Deprotection method 2, to obtain the desired compound (D-239) as an ivory solid (62 mg, 41%).

reactant | 5-(4-ethyl-piperazin-1-yl)-2-methyl-phenylamine | 73 mg | C(C)N1CCN(CC1)C=1C=CC(=C(C1)N)C | C13H21N3
reactant | 1-ethyl-piperazine | C(C)N1CCNCC1 | C6H14N2
reactant | 2-methyl-5-morpholin-4-yl-phenylamine | CC1=C(C=C(C=C1)N1CCOCC1)N | C11H16N2O
reactant | bis-(4-methoxy-benzyl)-[5-(2-morpholin-4-yl-6,7-dihydro-5H-pyrrolo[2,3-d]pyrimidin-4-yl)-pyrimidin-2-yl]-amine | 200 mg | COC1=CC=C(CN(C2=NC=C(C=N2)C=2C3=C(N=C(N2)N2CCOCC2)NCC3)CC3=CC=C(C=C3)OC)C=C1 | C30H33N7O3
reactant | 4-{2-[bis-(4-methoxy-benzyl)-amino]-pyrimidin-5-yl}-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid [5-(4-ethyl-piperazin-1-yl)-2-methyl-phenyl]-amide | C(C)N1CCN(CC1)C=1C=CC(=C(C1)NC(=O)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N(CC2=CC=C(C=C2)OC)CC2=CC=C(C=C2)OC)N2CCOCC2)C | C44H52N10O4
product | 4-(2-Amino-pyrimidin-5-yl)-2-morpholin-4-yl-5,6-dihydro-pyrrolo[2,3-d]pyrimidine-7-carboxylic acid [5-(4-ethyl-piperazin-1-yl)-2-methyl-phenyl]-amide | C(C)N1CCN(CC1)C=1C=CC(=C(C1)NC(=O)N1CCC2=C1N=C(N=C2C=2C=NC(=NC2)N)N2CCOCC2)C | C28H36N10O2
